US07405220B2
2,4-Dichloro-pyrimidine-5-carbaldehyde
To a stirred solution of 5-bromo-2,4-dichloropyrimidine (Aldrich, 454 mg, 2 mmol) in THF at −78° C., diisopropyl magnesium chloride (2M solution in THF, 2.1 mmol, 1.05 mL) was added and the mixture was stirred for 30 minutes at −35° C. Next, the solution was cooled to −78° C. and 1 mL of dry DMF was added. The mixture was stirred for 120 minutes at −78° C. and the reaction was quenched with 1 N HCl. The mixture was extracted with EtOAc and dried with sodium sulfate. The solvent was removed and the residue was chromatographed to give a brown solid. 102 mg, 28%. H1NMR (CDCl3), δ (ppm), 9.0 (s, 1 H), 10.4 (s, 1 H).

reactant | 5-bromo-2,4-dichloropyrimidine | 2 mmol, 454 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | diisopropyl magnesium chloride | 2.1 mmol, 2M, 1.05 mL | C(C)(C)[Mg]C(C)C.[Cl-]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2,4-Dichloro-pyrimidine-5-carbaldehyde | ClC1=NC=C(C(=N1)Cl)C=O | C5H2Cl2N2O
